US05344927
To 10 ml of dichloroethane were added 1.08 g of 5-pyrrolidinocarbonyl-4,5,6,7-tetrahydrobenzimidazole hydrochloride and 1.18 ml of phosphorus oxychloride, and the mixture was stirred at 80° C. for 1 hour. At the same temperature 0.69 g of 3-methylindolizine in 2 ml of dichloroethane was added dropwise thereto during 15 minutes. The mixture was refluxed while stirring for 3 hours after that the mixture was poured into 20 ml of ice-water, and then the mixture was stirred at room temperature for 30 minutes. After liquid-liquid separation, the aqueous layer was washed with 10 ml of dichloromethane. Further, the aqueous layer was adjusted to a pH of about 9 with an aqueous 20% sodium hydroxide solution and then extracted with 20 ml of chloroform-methanol (4:1) twice. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed off under reduced pressure. The residue was washed with 20 ml of dichloromethane-ethylacetate (3:1) to obtain 1.00 g of 5-[(3-methylindolizin-1-yl)carbonyl]-4,5,6,7-tetrahydrobenzimidazole.

reactant | 5-pyrrolidinocarbonyl-4,5,6,7-tetrahydrobenzimidazole hydrochloride | 1.08 g | Cl.N1(CCCC1)C(=O)C1CC2=C(N=CN2)CC1
reactant | phosphorus oxychloride | 1.18 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-methylindolizine | 0.69 g | CC1=CC=C2C=CC=CN12 | C9H9N
solvent | dichloroethane | 2 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 5-[(3-methylindolizin-1-yl)carbonyl]-4,5,6,7-tetrahydrobenzimidazole | 1.00 g | CC1=CC(=C2C=CC=CN12)C(=O)C1CC2=C(N=CN2)CC1 | C17H17N3O
